US04370498
The procedure followed is as described in Example B 2. (a), but instead of trimethylpyruvic acid N-acetylamide, the equivalent amount (0.1 mole) of phenylglyoxylic acid N-acetylamide was employed. 13.4 g (89.3% of theory) of phenylglyoxylic acid were obtained.

reactant | trimethylpyruvic acid N-acetylamide | C(C)(=O)NC(C(=O)C(C)(C)C)=O | C8H13NO3
reactant | phenylglyoxylic acid N-acetylamide | 0.1 mole | C(C)(=O)NC(C(=O)C1=CC=CC=C1)=O | C10H9NO3
product | phenylglyoxylic acid | 13.4 g, 89.3% | C1(=CC=CC=C1)C(C(=O)O)=O | C8H6O3
